US07015218B1
1-(4-Chlorophenyl)-5-methyl-N-[4-(4-morpholinopiperidin-1-yl)-3-nitrophenyl]pyrazole-4-carboxamide
1-(4-Chlorophenyl)-N-(4-chloro-3-nitrophenyl)-5-methylpyrazole-4-carboxamide (1.6 g) and 4-morpholinopiperidine (2.4 g) were added to dimethyl sulfoxide (20 ml) and the mixture was stirred at a refluxing temperature for 1.5 h. After cooling to room temperature, water was added and the precipitated solid was collected by filtration and extracted with chloroform. The organic layer was washed with 30% potassium carbonate and saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (mobile phase:chloroform/methanol) and recrystallized from hydrous dimethylformamide to give the title compound (0.7 g), melting point: 195–200° C.

reactant | 1-(4-Chlorophenyl)-N-(4-chloro-3-nitrophenyl)-5-methylpyrazole-4-carboxamide | 1.6 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)NC1=CC(=C(C=C1)Cl)[N+](=O)[O-] | C17H12Cl2N4O3
reactant | 4-morpholinopiperidine | 2.4 g | O1CCN(CC1)C1CCNCC1 | C9H18N2O
reactant | dimethyl sulfoxide | 20 ml | CS(=O)C | C2H6OS
solvent | water | O | H2O
product | 1-(4-Chlorophenyl)-5-methyl-N-[4-(4-morpholinopiperidin-1-yl)-3-nitrophenyl]pyrazole-4-carboxamide | 0.7 g | ClC1=CC=C(C=C1)N1N=CC(=C1C)C(=O)NC1=CC(=C(C=C1)N1CCC(CC1)N1CCOCC1)[N+](=O)[O-] | C26H29ClN6O4
